Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[cH:8][cH:9][c:10](-[c:11]4[o:12][n:13][c:14]([CH3:15])[c:16]4[NH:17][C:18](=[O:19])[O:20][C@H:21]([CH3:22])[c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29][cH:30]3)[cH:31][cH:32]2)[CH2:33][CH2:34]1)=[O:35].[NH2:36][S:37](=[O:38])(=[O:39])[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1>>[C:1]([C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[cH:8][cH:9][c:10](-[c:11]4[o:12][n:13][c:14]([CH3:15])[c:16]4[NH:17][C:18](=[O:19])[O:20][C@H:21]([CH3:22])[c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29][cH:30]3)[cH:31][cH:32]2)[CH2:33][CH2:34]1)(=[O:35])[NH:36][S:37](=[O:38])(=[O:39])[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1,[OH:101][C:1]([C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[cH:8][cH:9][c:10](-[c:11]4[o:12][n:13][c:14]([CH3:15])[c:16]4[NH:17][C:18](=[O:19])[O:20][C@H:21]([CH3:22])[c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29][cH:30]3)[cH:31][cH:32]2)[CH2:33][CH2:34]1)=[O:35].[NH2:36][S:37](=[O:38])(=[O:39])[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[cH:8][cH:9][c:10](-[c:11]4[o:12][n:13][c:14]([CH3:15])[c:16]4[NH:17][C:18](=[O:19])[O:20][C@H:21]([CH3:22])[c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29][cH:30]3)[cH:31][cH:32]2)[CH2:33][CH2:34]1)(=[O:35])[NH:36][S:37](=[O:38])(=[O:39])[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (36, 1), ([1, 35], 35), (303, 36.1), ([36.1, 36], 36), (35, [35, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[o:8]1.[CH3:9][CH2:10][O:11][C:12](=[O:13])[C@H:14]([CH2:15][c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1)[O:23][CH2:24][CH3:25]>>[CH2:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[o:8]1)[O:20][c:19]1[cH:18][cH:17][c:16]([CH2:15][C@@H:14]([C:12]([O:11][CH2:10][CH3:9])=[O:13])[O:23][CH2:24][CH3:25])[cH:22][cH:21]1,[CH3:9][CH2:10][O:11][C:12](=[O:13])[C@H:14]([CH2:15][c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1)[O:23][CH2:24][CH3:25].[OH:101][CH2:1][c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[o:8]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([c:2]1[c:3]([CH3:4])[cH:5][c:6]([Br:7])[o:8]1)[O:20][c:19]1[cH:18][cH:17][c:16]([CH2:15][C@@H:14]([C:12]([O:11][CH2:10][CH3:9])=[O:13])[O:23][CH2:24][CH3:25])[cH:22][cH:21]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 20.1), ([20.1, 20], 20), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (20, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3]([NH:4][C:5]([NH:6][c:7]2[c:8]([CH3:9])[cH:10][cH:11][cH:12][c:13]2[CH3:14])=[O:15])[cH:16][c:17]([Cl:18])[cH:19][cH:20]1)=[O:21].[CH3:22][O:23][C:24](=[O:25])[C@@H:26]([NH2:27])[CH:28]1[CH2:29][CH2:30][CH2:31][CH2:32][CH2:33]1>>[C:1]([c:2]1[c:3]([NH:4][C:5]([NH:6][c:7]2[c:8]([CH3:9])[cH:10][cH:11][cH:12][c:13]2[CH3:14])=[O:15])[cH:16][c:17]([Cl:18])[cH:19][cH:20]1)(=[O:21])[NH:27][C@H:26]([C:24]([O:23][CH3:22])=[O:25])[CH:28]1[CH2:29][CH2:30][CH2:31][CH2:32][CH2:33]1,[OH:101][C:1]([c:2]1[c:3]([NH:4][C:5]([NH:6][c:7]2[c:8]([CH3:9])[cH:10][cH:11][cH:12][c:13]2[CH3:14])=[O:15])[cH:16][c:17]([Cl:18])[cH:19][cH:20]1)=[O:21].[CH3:22][O:23][C:24](=[O:25])[C@@H:26]([NH2:27])[CH:28]1[CH2:29][CH2:30][CH2:31][CH2:32][CH2:33]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([NH:4][C:5]([NH:6][c:7]2[c:8]([CH3:9])[cH:10][cH:11][cH:12][c:13]2[CH3:14])=[O:15])[cH:16][c:17]([Cl:18])[cH:19][cH:20]1)(=[O:21])[NH:27][C@H:26]([C:24]([O:23][CH3:22])=[O:25])[CH:28]1[CH2:29][CH2:30][CH2:31][CH2:32][CH2:33]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (27, 1), ([1, 21], 21), (303, 27.1), ([27.1, 27], 27), (21, [21, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]1[CH2:2][CH2:3][N:4]([C:5](=[O:6])[O:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[CH2:15][CH2:16]1.[CH3:17][CH2:18][NH2:19]>>[CH:1]1([NH:19][CH2:18][CH3:17])[CH2:2][CH2:3][N:4]([C:5](=[O:6])[O:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[CH2:15][CH2:16]1,[O:101]=[C:1]1[CH2:2][CH2:3][N:4]([C:5](=[O:6])[O:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[CH2:15][CH2:16]1.[CH3:17][CH2:18][NH2:19].[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]1([NH:19][CH2:18][CH3:17])[CH2:2][CH2:3][N:4]([C:5](=[O:6])[O:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[CH2:15][CH2:16]1,reductive_amination,"[(19, 1), ([1, 101], 301), (101, 19.1), ([19.1, 19], 19), (19, [19, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 19], 19)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
